US09120761B2
(f) tert-Butyl 4-(4-amino-3-methoxyphenyl)piperidine-1-carboxylate (I26)
To a suspension of 10% Pd/C (0.068 g) in DMF (2 mL) under nitrogen was added a solution of tert-butyl 4-(4-amino-3-methoxyphenyl)-5,6-dihydropyridine-1(2H)-carboxylate (I33) (2.0 g, 6.5 mmol) in EtOH (50 mL) and the resulting suspension was stirred under an atmosphere of hydrogen at room temperature for 24 hours. The reaction mixture was filtered through celite, washing with ethyl acetate (100 mL). The filtrate was evaporated to dryness to give the title compound (I26) (1.42 g, 72%) as a light brown solid; 1H NMR (400 MHz, CDCl3) δ 6.66-6.58 (m, 3H), 4.21 (s, 2H), 3.76-3.66 (m, 4H), 2.53 (tt, J=12.1, 3.5 Hz, 1H), 1.84-1.75 (m, 2H), 1.55 (tdd, J=11.5, 6.4, 3.1 Hz, 1H), 1.47 (s, 9H).

reactant | tert-butyl 4-(4-amino-3-methoxyphenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 6.5 mmol, 2.0 g | NC1=C(C=C(C=C1)C1=CCN(CC1)C(=O)OC(C)(C)C)OC | C17H24N2O3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd/C | 0.068 g | [Pd] | Pd
product | tert-Butyl 4-(4-amino-3-methoxyphenyl)piperidine-1-carboxylate | NC1=C(C=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)OC | C17H26N2O3
